US04996149
A few drops of a suspension of M. plumbeus MMP 430 spores are added to 100 ml of medium A, described below, adjusted to pH7, in a 250 ml Erlenmeyer flask. Incubation is continued for 72 hours at 27° C. in a rotating agitator (327 RPM). A solution of 50 mg of quinidine in 1 ml of ethanol is then added under sterile conditions to the culture, and agitation is continued for 14 days under the same conditions. The culture is filtered on celite, the filtrate saturated with NaCl, brought to pH 10-12 by 2N NaOH, the extracted 6 times by methylene chloride. The dried and subsequently evaporated organic fractions are chromatographed on a preparative layer of silica gel, using as solvent CHCl2 -MeOH-NH4OH (85:14:1). The (3S)-3-hydroxy-quinidine band, identified by its fluorescence at 254 nm and its migration, which is smaller than that of quinidine, is scraped off and eluted by methanol. One obtains 1 mg of (3S)-3-hydroxy quinidine, identical with an authentic sample. Non-reacted quinidine is recovered in the same manner, and almost quantitatively (42 mg).

reactant | quinidine | 50 mg | COC=1C=CC2=C(C1)C(=CC=N2)[C@@H]([C@H]3CC4CCN3C[C@@H]4C=C)O | C20H24N2O2
reactant | ethanol | 1 ml | C(C)O | C2H6O
product | (3S)-3-hydroxy quinidine | 1 mg | COC1=CC2=C(C=CN=C2C=C1)[C@@H]([C@H]3C[C@H]4CCN3C[C@@]4(C=C)O)O | C20H24N2O3
